US06232373B1
A formulation consisting of 70 kg of cellulose, 20 kg of potassium caseinate and 10 kg of polymer d2) having a content of N-vinylimidazole (Vl) of 90% by weight, a content of N-vinylpyrrolidone (VP) of 7% by weight and a content of N,N′-divinylethyleneurea (DVEU) of 3% by weight was prepared by dissolving the potassium caseinate in 400 l of water at 60° C. and suspending the cellulose therein. The suspension was atomized at 185° C. at 70 bar via a single-component nozzle and the polymer was injected into the atomization zone.

reactant | potassium | 20 kg | [K] | K
reactant | N-vinylimidazole | C(=C)N1C=NC=C1 | C5H6N2
reactant | N-vinylpyrrolidone | C(=C)N1C(CCC1)=O | C6H9NO
solvent | water | 400 l | O | H2O
product | N,N′-divinylethyleneurea | C=CN1CCN(C1=O)C=C | C7H10N2O
